US04317820
20 ml of dimethyl sulfoxide was added to a mixture of 1.6 g of 9-chloro-2-methyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid and 3 g of anhydrous piperazine and the mixture was heated on an oil bath at 140° to 150° C. for 6 hours. After completion of the reaction, the solvent was removed therefrom under reduced pressure and 50 ml of water was added to the residue to dissolve it. The solution was shaken with 100 ml of chloroform and the water layer was separated and treated with activated carbon. The aqueous solution was rendered acidic with a 10% aqueous hydrochloric acid and filtered. The filtrate was again treated with activated carbon followed by concentration. The addition of ethanol to the concentrate gave rise to crystals which were recrystallized from ethanol-water to obtain 0.9 g of 9-(1-piperazinyl)-2-methyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid hydrochloride as light yellow needles having a melting point of 269°-273° C. (decomposition).

reactant | 9-chloro-2-methyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 1.6 g | ClC1=CC=C2C(C(=CN3C2=C1CC3C)C(=O)O)=O | C13H10ClNO3
reactant | piperazine | 3 g | N1CCNCC1 | C4H10N2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 9-(1-piperazinyl)-2-methyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid hydrochloride | 0.9 g | Cl.N1(CCNCC1)C1=CC=C2C(C(=CN3C2=C1CC3C)C(=O)O)=O | InChI=1S/C17H19N3O3.ClH/c1-10-8-12-14(19-6-4-18-5-7-19)3-2-11-15(12)20(10)9-13(16(11)21)17(22)23;/h2-3,9-10,18H,4-8H2,1H3,(H,22,23);1H
